US05536701
5-Ethoxy-2,4-dihydro-2-methyl-3H-pyrazol-3-one (0.63 g, 0.0044 mole), 3-chloro-5-methoxypyridazine (0.64 g, 0.0044 mole), potassium carbonate (1.50 g, 0.010 mole), cuprous bromide (0.05 g, 0.0003 mole) and anhydrous dimethyl sulfoxide (10 mL) were heated and held at 90° C. for 42 hours. The mixture was cooled, treated with 1% hydrochloric acid solution and extracted with ethyl acetate. The combined extracts were washed with 2% sodium hydroxide, dried with magnesium sulfate, filtered and concentrated in vacuo. Purification by chromatography on silica gel using ethyl acetate/cyclohexane gave a tan solid, which was recrystallized from ethyl acetate/methylcyclohexane to give 5-methoxy-3-[(3-ethoxy-1-methyl-1H-pyrazol-5-yl)oxy]pyridazine (0.22 g, 22% yield) as a white solid.

reactant | 5-Ethoxy-2,4-dihydro-2-methyl-3H-pyrazol-3-one | 0.0044 mole, 0.63 g | C(C)OC=1CC(N(N1)C)=O | C6H10N2O2
reactant | 3-chloro-5-methoxypyridazine | 0.0044 mole, 0.64 g | ClC=1N=NC=C(C1)OC | C5H5ClN2O
reactant | potassium carbonate | 0.010 mole, 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 5-methoxy-3-[(3-ethoxy-1-methyl-1H-pyrazol-5-yl)oxy]pyridazine | 0.22 g, 22% yield | COC=1C=C(N=NC1)OC1=CC(=NN1C)OCC | C11H14N4O3
